US09388189B2
(S)—N-(4-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-indol-6-yl)methanesulfonamide
(S)—N-(4-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-indol-6-yl)methanesulfonamide (87 mg, 0.12 mmol) was treated with trifluoroacetic acid (2.5 ml, 32 mmol) and a solution of ammonia (7N in methanol, 1.25 ml, 17 mmol) according to the method described in Example 27. The residue was purified using SP1® Purification System (0% to 50% dichloromethane-2-propanol) to obtain 60 mg (80% yield) of the title compound. Purity 95%.

reactant | (S)—N-(4-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-indol-6-yl)methanesulfonamide | 0.12 mmol, 87 mg | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)N(C=C1C1=C2C=CNC2=CC(=C1)NS(=O)(=O)C)COCC[Si](C)(C)C | C36H41N9O4SSi
reactant | trifluoroacetic acid | 32 mmol, 2.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 17 mmol, 7N, 1.25 ml | N | H3N
product | (S)—N-(4-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-indol-6-yl)methanesulfonamide | 60 mg, 80% yield | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)NC=C1C1=C2C=CNC2=CC(=C1)NS(=O)(=O)C | C30H27N9O3S
